US04772600
2-(4-Chlorophenyl)-N-(1-methylethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.017 mole) and 1,1'-carbonyldiimidazole (2.82 g, 0.017 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 2 hours with a stream of nitrogen bubbling through it. A solution of isopropylamine (2.06 g, 0.035 mole) in tetrahydrofuran was added dropwise and the reaction mixture was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated and the solid residue was triturated with water. The solid was collected and dried under high vacuum overnight. The solid was recrystallized from isopropyl alcohol with cooling in the freezer, collected by filtration, washed with water, and dried under high vacuum at 50° C. overnight to give 4.0 g (70%), mp 248°-9° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.017 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.017 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 0.035 mole, 2.06 g | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-(1-methylethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC(C)C | C17H17ClN4O
